US07151105B2
Step 2: 5Methoxy-2-ethyl-phenol
1-(4-Methoxy-2-hydroxy-phenyl)-ethanone (11.0 g) was dissolved in MeOH (100 mL), treated with 10 wt % Pd/C (4.0 g, Degussa type) and stirred under a balloon of H2 for 24 hours. The reaction mixture was filtered through a pad of celite washing with EtOAc. The filtrate was concentrated to give the product as an oil (10.0 g). 1H NMR (300 MHz, CDCl3): δ 1.20 (t, J=7.85 Hz, 3 H) 2.60- (q, J=6.22 Hz 2 H), 3.75 (s, 3 H), 6.40 (dd, J=9.04 Hz, 2.64 Hz, 1 H), 6.45 (d, J=2.64 Hz, 1 H) 7.00 (d, J=8.29 Hz, 1 H), 12.90 (s, 1 H).

reactant | 1-(4-Methoxy-2-hydroxy-phenyl)-ethanone | 11.0 g | COC1=CC(=C(C=C1)C(C)=O)O | C9H10O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 4.0 g | [Pd] | Pd
product | 5Methoxy-2-ethyl-phenol | 10.0 g | COC=1C=CC(=C(C1)O)CC | C9H12O2
